US06815546B2
Stage 83c: 2-amino-6-fluorophenylmethanol
A solution under argon of 2-amino-6-fluorobenzoic acid (5 g; 32 mmol) in anhydrous tetrahydrofuran (100 ml) is treated with lithium aluminium hydride (1M in tetrahydrofuran; 64 ml; 64 mmol) at ambient temperature. The reaction medium is agitated for 3 hours, then hydrolyzed at 0° C. with a saturated aqueous solution of ammonium chloride (100 ml). The resulting mixture is extracted with ethyl acetate (2×70 ml). The combined extracts are washed with water and with a saturated aqueous solution of sodium chloride, then dried over magnesium sulphate and concentrated to produce 3.8 g of the desired product, a white solid (m.p.: 93° C.).

reactant | 2-amino-6-fluorobenzoic acid | 32 mmol, 5 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | lithium aluminium hydride | 64 mmol, 1M, 64 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-amino-6-fluorophenylmethanol | 3.8 g | NC1=C(C(=CC=C1)F)CO | C7H8FNO
